US08461179B1
A 0° C. solution of (2,4-difluoro-phenyl)acetic acid (14.5 g, 0.084 mol) in H2SO4 (60 mL) was treated drop-wise with 69% HNO3 (6 mL), stirred at 0° C. for 35 min, then poured into ice water. The aqueous layer was extracted with EtOAc, and the organic extracts were washed with brine, dried (Na2SO4), concentrated in vacuo and purified by silica gel chromatography to give (2,4-difluoro-5-nitro-phenyl)acetic acid (16 g, 88% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.30 (t, J=8.0 Hz, 1H), 7.68 (m, 1H), 3.75 (s, 2H).

reactant | (2,4-difluoro-phenyl)acetic acid | 0.084 mol, 14.5 g | FC1=C(C=CC(=C1)F)CC(=O)O | C8H6F2O2
reactant | HNO3 | 6 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 60 mL | OS(=O)(=O)O | H2O4S
product | (2,4-difluoro-5-nitro-phenyl)acetic acid | 16 g, 88% yield | FC1=C(C=C(C(=C1)F)[N+](=O)[O-])CC(=O)O | C8H5F2NO4
